US05186717
c) Preparation of 2-amino-3-nitro-N-methylaniline
0.0716 mol (23 g) of 2-amino-3-nitro-N-methyl-N-tosylaniline is added gradually, in the course of 10 minutes whilst stirring, to 230 ml of concentrated sulphuric acid to which 23 ml of water has been added and which has been heated to 90° C. beforehand. When the addition has ended, the reaction medium is kept at 90° C. for 5 minutes and then poured onto crushed ice. The acid aqueous solution obtained is rendered alkaline with the aid of ammonia solution in order to precipitate the expected product. The latter is filtered off, washed with water and recrystallised from 40 ml of alcohol. After drying in vacuo, it melts at 93° C.

reactant | 2-amino-3-nitro-N-methyl-N-tosylaniline | 0.0716 mol, 23 g | NC1=C(N(S(=O)(=O)C2=CC=C(C)C=C2)C)C=CC=C1[N+](=O)[O-] | C14H15N3O4S
reactant | sulphuric acid | 230 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
solvent | water | 23 ml | O | H2O
product | 2-amino-3-nitro-N-methylaniline | NC1=C(NC)C=CC=C1[N+](=O)[O-] | C7H9N3O2
